US05977105
b) (±)-5-(3-Pyridyl)-1,3-pentanediol
A mixture of ozone in air was passed through a solution of (±)-6-(3-pyridyl)-hex-1-en-4-ol (1.38 g) in methanol (70 ml) at 0° C. for 2 hours. The solution was flushed with nitrogen for 1 hour then sodium borohydride (2 g) was added portionwise. The mixture was stirred at room temperature for 20 hours and then concentrated under reduced pressure. The residue was purified by column chromatography over silica eluting with methanol:dichloromethane (1:19) and the required fractions concentrated under reduced pressure. Ethyl acetate (25 ml) and aqueous potassium tartrate solution (1 M, 25 ml) were added to the residue and the mixture stirred rapidly for 2 hours. The phases were separated and the aqueous phase extracted with ethyl acetate (10×25 ml). The combined organic extracts were dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give the sub-title compound as an oil (1.20 g).

reactant | ozone | O=[O+][O-] | O3
reactant | (±)-6-(3-pyridyl)-hex-1-en-4-ol | 1.38 g | N1=CC(=CC=C1)CCC(CC=C)O | C11H15NO
solvent | methanol | 70 ml | CO | CH4O
product | (±)-5-(3-Pyridyl)-1,3-pentanediol | 1.20 g | N1=CC(=CC=C1)CCC(CCO)O | C10H15NO2
